US04710573
1-Benzoyl-3-(1-methyl-4-piperidinyl)-1H-indazole hydrochloride
A mixture of 3.0 g of 3-(1-methyl-4-piperidinyl)-1H-indazole and 3.2 ml of benzoyl chloride was heated at 100° for 2 hrs. The resultant solid was triturated with ether and collected. The salt was twice recrystallized from ethanol-ether to yield 3.1 g (62.2%) of product, mp 234°-236° C.

reactant | 3-(1-methyl-4-piperidinyl)-1H-indazole | 3.0 g | CN1CCC(CC1)C1=NNC2=CC=CC=C12 | C13H17N3
reactant | benzoyl chloride | 3.2 ml | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
product | 1-Benzoyl-3-(1-methyl-4-piperidinyl)-1H-indazole hydrochloride | 3.1 g, 62.2% | Cl.C(C1=CC=CC=C1)(=O)N1N=C(C2=CC=CC=C12)C1CCN(CC1)C | InChI=1S/C20H21N3O.ClH/c1-22-13-11-15(12-14-22)19-17-9-5-6-10-18(17)23(21-19)20(24)16-7-3-2-4-8-16;/h2-10,15H,11-14H2,1H3;1H
